US04618610
With ice-cooling, butyric anhydride (1.76 g) was added gradually to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.07 g) in pyridine (90 ml). The mixture was stirred at room temperature for 4 hours and concentrated under reduced pressure. To the residue was added diluted hydrochloric acid and the resulting crystals were collected by filtration, washed with water, dried and recrystallized from 50% aqueous ethanol to give 6-(4-butyrylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.15 g).

reactant | butyric anhydride | 1.76 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.07 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-butyrylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.15 g | C(CCC)(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H18N4O2
